US05032487
(2 1) 150 g of 3-pentadecylphenol and 17.7 g of paraformaldehyde were dispersed in 300 ml of water and 150 ml of methanol, and the dispersion was stirred at 50° C. for 12 hours. The reaction mixture was neutralized with concentrated hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. 300 ml of hexane were added to the residue to precipitate a crystal. The crystal was recovered by filtration and dried to obtain 32 g of 2-hydroxymethyl-5-pentadecylphenol.

reactant | 3-pentadecylphenol | 150 g | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)O | C21H36O
reactant | paraformaldehyde | 17.7 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 2-hydroxymethyl-5-pentadecylphenol | 32 g | OCC1=C(C=C(C=C1)CCCCCCCCCCCCCCC)O | C22H38O2
